US06734179B2
To a solution of 0.25 g (0.69 mMol) 4-(2-amino-4-methoxy-benzothiazol-7-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester in 5 ml THF were added 0.37 ml ethyl diisopropyl amine and 1.0 ml (0.83 mMol) 4-fluoro-benzoyl chloride. The reaction mixture was heated to 40° C. for 3 h. Then 1 ml methanol was added. The solvent was evaporated to dryness, the residue taken up in dichloro methane and washed with water and brine. The organic phase was dried over sodium sulfate and evaporated to dryness in vacuo. The residue was subjected to column chromatography (ethyl acetate/hexane 1:1) to yield 0.275 g (82%) of 4-[2-(4-fluoro-benzoylamino)-4-methoxy-benzothiazol-7-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester as an off-white solid; F.p.: 205-211° C.

reactant | 4-(2-amino-4-methoxy-benzothiazol-7-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 0.69 mMol, 0.25 g | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC=C(C=2N=C(SC21)N)OC | C18H23N3O3S
reactant | ethyl diisopropyl amine | 0.37 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 4-fluoro-benzoyl chloride | 0.83 mMol, 1.0 ml | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | methanol | 1 ml | CO | CH4O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 4-[2-(4-fluoro-benzoylamino)-4-methoxy-benzothiazol-7-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 0.275 g, 82% | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC=C(C=2N=C(SC21)NC(C2=CC=C(C=C2)F)=O)OC | C25H26FN3O4S
